US07125901B2
({4-[2-(Acetylamino)-1,3-thiazol-4-yl]phenyl}sulfonyl)methyl acetate (700 mg), THF (8 ml), MeOH (4 ml) and 1N—NaOH (1.98 ml) were combined. The reaction mixture was stirred at r.t. for 1.5 hours, and concentrated in vacuo. The residual solid was washed with ethyl ether to give sodium 4-[2-(acetylamino)-1,3-thiazol-4-yl]phenylsulfinate (731 mg) as a colorless solid.

reactant | ({4-[2-(Acetylamino)-1,3-thiazol-4-yl]phenyl}sulfonyl)methyl acetate | 700 mg | C(C)(=O)OCS(=O)(=O)C1=CC=C(C=C1)C=1N=C(SC1)NC(C)=O | C14H14N2O5S2
reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | NaOH | 1.98 ml | [OH-].[Na+]
solvent | MeOH | 4 ml | CO | CH4O
product | sodium 4-[2-(acetylamino)-1,3-thiazol-4-yl]phenylsulfinate | 731 mg | C(C)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)S(=O)[O-].[Na+] | InChI=1S/C11H10N2O3S2.Na/c1-7(14)12-11-13-10(6-17-11)8-2-4-9(5-3-8)18(15)16;/h2-6H,1H3,(H,15,16)(H,12,13,14);/q;+1/p-1
